US05208240
Preparation of (-)-N-[[[4-[2-(2,3,6,9-Tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propy]phenyl]oxy]acetyl]-L-alanine, t-butyl ester
Mix (-)-2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid (4.28 g, 10 mmol), L-alanine t-butylester hydrochloride (965 mg, 5.3 mmol), hydroxybenztriazole (1.65 g, 11 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.1 g, 11 mmol). Add a solution of diisopropylethylamine (3.8 mL) in methylene chloride (20 mL) and stir at room temperature for several hours. Dilute with ethyl acetate (150 mL), wash with cold 0.5N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and brine. Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound.

reactant | (-)-2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid | 10 mmol, 4.28 g | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(OCC(=O)O)C=C1)C)CCC)=O | C22H28N4O5
reactant | L-alanine t-butylester hydrochloride | 5.3 mmol, 965 mg | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | hydroxybenztriazole | 11 mmol, 1.65 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11 mmol, 2.1 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 3.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (-)-N-[[[4-[2-(2,3,6,9-Tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propy]phenyl]oxy]acetyl]-L-alanine, t-butyl ester | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(C=C1)OCC(=O)N[C@@H](C)C(=O)OC(C)(C)C)C)CCC)=O | C29H41N5O6
